US05817693
c) Ethyl(1RS ,2SR,3SR)-1-(4-Methoxyphenyl)-3-phenylindane-2-carboxylate
To a solution of ethyl(RS)-1-(4-methoxyphenyl)-3-phenylindene-2-carboxylate (5.75 g, 15 mmol) in EtOAc (150 ml) was added 5% palladium on activated carbon (600 mg). The resulting suspension was stirred under an atmosphere of H2 for 1 d, then was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure to afford the title compound, which was used without further purification.

reactant | ethyl(RS)-1-(4-methoxyphenyl)-3-phenylindene-2-carboxylate | 15 mmol, 5.75 g | COC1=CC=C(C=C1)C1C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C25H22O3
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on activated carbon | 600 mg | [Pd] | Pd
product | Ethyl(1RS ,2SR,3SR)-1-(4-Methoxyphenyl)-3-phenylindane-2-carboxylate | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C25H24O3
